US07153878B2
3-(4-Iodomethyl-2-methyl-phenyl)-propionic acid methyl ester
A mixture of 3-(4-Hydroxymethyl-2-methyl-phenyl)-propionic acid methyl ester (0.62 g, 2.98 mmol), triphenyl phosphine (0.86 g, 3.27 mmol) and dichloromethane (10 mL) is stirred at room temperature. A solution of iodine (0.83 g, 3.27 mmol) in benzene (5 mL) is added and the black mixture is stirred at room temperature 2 hr. The brown mixture is diluted with 10% aqueous sodium hydrogen sulfite (5 mL) and the resulting clear mixture is washed with ethyl acetate (3×50 mL). The combined extracts are dried over anhydrous magnesium sulfate, filtered and concentrated. The residue is purified via silica chromatography eluting with 9:1 hexanes:ethyl acetate to afford the title compound as a crystalline ivory solid, 0.689, 72%. MS M++1 319. The structure is confirmed by 1H NMR spectroscopy.

reactant | 3-(4-Hydroxymethyl-2-methyl-phenyl)-propionic acid methyl ester | 2.98 mmol, 0.62 g | COC(CCC1=C(C=C(C=C1)CO)C)=O | C12H16O3
reactant | triphenyl phosphine | 3.27 mmol, 0.86 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
reactant | iodine | 3.27 mmol, 0.83 g | II | I2
solvent | benzene | 5 mL | C1=CC=CC=C1 | C6H6
solvent | sodium hydrogen sulfite | 5 mL | S(=O)(O)[O-].[Na+]
product | 3-(4-Iodomethyl-2-methyl-phenyl)-propionic acid methyl ester | COC(CCC1=C(C=C(C=C1)CI)C)=O | C12H15IO2
